US05500361
Synthesis of N-Tetradecyliodoacetamide
1-Tetradecylamine (3.67 mmol) was dissolved in 14 8 mL of CH2Cl2, cooled to 4° C. and 2 83 μmol of iodoacetic anhydride in 11.3 mL of CH2Cl2 was added dropwise to the stirred solution. The solution was warmed to room temperature and held for 2 h. The reaction mixture was diluted to about 50 mL with CH2Cl2 and washed 3 times (25 mL) with saturated sodium bicarbonate solution and then 2 times with water. The volume of the solution was reduced to about 5 mL under vacuum and passed through 25 mL of silica gel-in diethyl ether. The eluate was reduced to an off-white powder under vacuum.

reactant | 1-Tetradecylamine | 3.67 mmol | C(CCCCCCCCCCCCC)N | C14H31N
reactant | iodoacetic anhydride | ICC(=O)OC(CI)=O | C4H4I2O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 11.3 mL | C(Cl)Cl | CH2Cl2
product | N-Tetradecyliodoacetamide | C(CCCCCCCCCCCCC)NC(CI)=O | C16H32INO
